US08008483B2
Step 2: N-[(2,4-dichlorophenyl)methyl]-4-piperidinecarboxamide
A 500 mL round bottom flask equipped with a magnetic stir bar was charged with 1,1-di methylethyl-4-({[(2,4-dichlorophenyl)methyl]amino}carbonyl)-1-piperidinecarboxylate (27.6 g, 71.2 mmol) and DCM (117 mL) at room temperature. Trifluoroacetic acid (117 mL) was added slowly, and the reaction was maintained at room temperature for 1 hour after which time LC/MS determined that the reaction was complete (Rt=6.03 min and m/e 287 [M+1]+). The volatiles were removed by rotary evaporation and the crude oil was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution (3×200 mL). The organic phase was dried over Na2SO4, filtered and concentrated to give 13.5 g of the title compound (47 mmol, 66%) as a pale yellow solid. MS (ES) m/e 287 [M+H]+. 1H NMR (400 MHz, DMSO-D6) □ 8.6 (m, 1H), 7.4 (d, 1H), 7.3 (d, 1H), 4.3 (m, 2H), 3.2 (m, 2H), 2.8 (m, 2H), 2.5 (m, 1H shouldering on DMSO peak), 1.8 (m, 2H), 1.7 (m, 2H)

reactant | 1,1-di methylethyl-4-({[(2,4-dichlorophenyl)methyl]amino}carbonyl)-1-piperidinecarboxylate | 71.2 mmol, 27.6 g | CC(C)(C)C1N(CCC(C1)C(=O)NCC1=C(C=C(C=C1)Cl)Cl)C(=O)[O-]
reactant | Trifluoroacetic acid | 117 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 117 mL | C(Cl)Cl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-4-piperidinecarboxamide | 47 mmol, 13.5 g, 66% | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1CCNCC1 | C13H16Cl2N2O
